US06846827B1
4-[5-(4-Dibenzofuranylcarbonylamino)-2-methylanilino]-2-(3-dimethylamino-2,2-dimethylpropoxy)pyrimidine
Using an analogous procedure to that described in Example 8, 2-chloro-4-[5-(4-dibenzofuranylcarbonylamino)-2-methylanilino]pyrimidine was reacted with 3-dimethylamino-2,2-dimethylpropanol. The reaction mixture was evaporated and the residue was purified by column chromatography on silica using increasingly polar mixtures of methylene chloride and methanol as eluent followed by increasingly polar mixtures of methylene chloride and methanol containing 1% aqueous ammonium hydroxide solution. There was thus obtained the title compound; NMR Spectrum: (DMSOd6) 0.85 (s, 6H), 2.14 (s, 6H), 2.18 (s, 2H), 3.94 (s, 2H), 6.22 (d, 1H), 7.23 (d, 1H), 7.4-7.58 (m, 4H), 7.78 (d, 1H), 7.84 (d, 1H), 7.96 (m, 2H), 8.2 (d, 1H), 8.31 (d, 1H); Mass Spectrum: M+H+ 524.

reactant | 2-chloro-4-[5-(4-dibenzofuranylcarbonylamino)-2-methylanilino]pyrimidine | ClC1=NC=CC(=N1)NC1=C(C=CC(=C1)NC(=O)C1=CC=CC2=C1OC1=C2C=CC=C1)C | C24H17ClN4O2
reactant | 3-dimethylamino-2,2-dimethylpropanol | CN(CC(CO)(C)C)C | C7H17NO
product | 4-[5-(4-Dibenzofuranylcarbonylamino)-2-methylanilino]-2-(3-dimethylamino-2,2-dimethylpropoxy)pyrimidine | C1=CC=C(C=2OC3=C(C21)C=CC=C3)C(=O)NC=3C=CC(=C(NC2=NC(=NC=C2)OCC(CN(C)C)(C)C)C3)C | C31H33N5O3
